data/pmechdb/original/mc_train_fold0/raw/train.txt
C1CCC(C1)NC(=O)C(CC2=CC=C(C=C2)OCC3=CC=CC=C3)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>C1CCC(C1)NC(=O)C(CC2=CC=C(C=C2)OCC3=CC=CC=C3)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
C[OH:10].CO[C:20](=[NH2+:21])O>>C[OH+:10][C:20]([NH2:21])(O)OC 10=20;20,21=21
[H:20][CH2:21]P(=O)(OC)OC.CS(=O)[CH2:10][Na:11]>>[H:20][CH2:10]S(=O)C.COP(=O)([CH2-:21])OC.[Na+:11] 10,11=10,20;20,21=21
[H:20][Br:21].C[C:11]1=[CH:10]CCCCC1(C)C2=CC=CC=C2>>[H:20][CH:10]1CCCCC([C+:11]1C)(C)C2=CC=CC=C2.[Br-:21] 10,11=10,20;20,21=21
[H:20][OH+:21]C.CC(=[O:10])O[Si-](C)(C)(C)OS(=O)(=O)C>>[H:20][O+:10]=C(C)O[Si-](C)(C)(C)OS(=O)(=O)C.C[OH:21] 10=20;20,21=21
[H:20][CH2:21][C:22](=[O+:23][Li-][N:10](C(C)C)C(C)C)C(C)C>>[H:20][N+:10]([Li-][O:23][C:22](=[CH2:21])C(C)C)(C(C)C)C(C)C 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)O.C(CC(=O)[O-:10])C=O>>[H:20][O:10]C(=O)CCC=O.OS(=O)(=O)[O-:21] 10=20;20,21=21
C[CH:20]=[N:21]C.C[C:10](=C)[Mg:11]Br>>C[CH:20]([C:10](=C)C)[N-:21]C.[Mg+:11]Br 10,11=10,20;20,21=21
C1C2C=CC(C1(C[N:10]=[N:20][OH2+:21])O)O2.O.OS(=O)(=O)[O-].[Na+]>>C1C2C=CC(C1(C[N+:10]#[N:20])O)O2.[OH2:21].O.OS(=O)(=O)[O-].[Na+] 10=20;20,21=21
C[O-:10].C[S+:21](C)[CH3:20]>>C[O:10][CH3:20].C[S:21]C 10=20;20,21=21
C[O:10][CH+:20][S-]>>C[O+:10]=[CH:20][S-] 10=20,
CC[CH2:20][Br:21].CC(C)[O-:10]>>CC[CH2:20][O:10]C(C)C.[Br-:21] 10=20;20,21=21
[H:20][C:21]1(C2=C(C=CC=C2)C3=C1C=CC=C3)COC(=O)NC(CC4=CNC5=C4C=CC=C5)C(=O)NC.C1CC[NH:10]CC1.CN(C)C=O>>[H:20][NH+:10]1CCCCC1.CNC(=O)C(CC1=CNC2=C1C=CC=C2)NC(=O)OC[C-:21]3C4=C(C=CC=C4)C5=C3C=CC=C5.CN(C)C=O 10=20;20,21=21
C[C:20](C(C#N)C#N)([O-:10])[Cl:21]>>C[C:20](=[O:10])C(C#N)C#N.[Cl-:21] 10=20;20,21=21
CC1=CC=C[N+:21](=C1)[CH:20]2CC(C([O:10]2)COC)O>>CC1=CC=C[N:21]=C1.COCC1C(C[CH:20]=[O+:10]1)O 10=20;20,21=21
CCOC(=O)C1=C(C[C:20]([O:10]1)(C(=O)OCC)[OH2+:21])C2=C(C(=CC=C2)N3CCCCC3)[N+](=O)[O-].CC(=O)[O-].C1CCOC1>>CCOC(=O)[C:20]1=[O+:10]C(=C(C1)C2=C(C(=CC=C2)N3CCCCC3)[N+](=O)[O-])C(=O)OCC.[OH2:21].CC(=O)[O-].C1CCOC1 10=20;20,21=21
CCC(C)(C)[NH:10]C.[CH3:20][I:21]>>CCC(C)(C)[NH+:10](C)[CH3:20].[I-:21] 10=20;20,21=21
CCO[C:22](=[O:23])[CH:21]=[CH:20]C1=CC=CC=C1.CCO[C:11](=[CH:10]C(=O)OCC)[O-:12].CO.C[OH+][Na]>>CCO[C:22](=[CH:21][CH:20](C1=CC=CC=C1)[CH:10](C(=O)OCC)[C:11](=[O:12])OCC)[O-:23].CO.C[OH+][Na] 10,11=10,20;12=11;22,23=23;20,21=21,22
[Li][P:10](C)(C)(Cl)[Cl:11]>>[Li][P+:10](C)(C)Cl.[Cl-:11] 10,11=11
C1=CC=C(C=C1)[C:10](C2=CC=CC=C2)(C3=CC=CC=C3)[OH2+:11]>>C1=CC=C(C=C1)[C+:10](C2=CC=CC=C2)C3=CC=CC=C3.[OH2:11] 10,11=11
[Li-]([NH+](C(C)C)C(C)C)[O:12][C:11]1=[C:10](C=CCC1(C)CC=C(C)C)C.[CH3:20][I:21]>>[I-:21].[Li-]([NH+](C(C)C)C(C)C)[O+:12]=[C:11]1[C:10](C=CCC1(C)CC=C(C)C)(C)[CH3:20] 10,11=10,20;20,21=21;12=11
[H:20][NH+:21](CCC1=C(C=C2C(=C1)OCO2)I)S(=O)(=O)C3=CC=CC=C3.CC[N:10](CC)CC.[Cl-]>>[H:20][N+:10](CC)(CC)CC.C1OC2=CC(=C(C=C2O1)I)CC[NH:21]S(=O)(=O)C3=CC=CC=C3.[Cl-] 10=20;20,21=21
[Li:20]N(C(C)C)C(C)C.CC(C)N(C(C)C)C(=[O:10])OC1=CC(=CC=C1)F>>[Li-:20](N(C(C)C)C(C)C)[O+:10]=C(N(C(C)C)C(C)C)OC1=CC(=CC=C1)F 10=20,
CC[N:10](CC)[CH:20](C)[NH+:21](C)C>>CC[N+:10](=[CH:20]C)CC.C[NH:21]C 10=20;20,21=21
[H:20][O+:21](C)[Na].CC(=O)[CH-:10]CC1(C(=O)CCCC1=O)C.CO>>[H:20][CH:10](CC1(C(=O)CCCC1=O)C)C(=O)C.C[O:21][Na].CO 10=20;20,21=21
[B-]([O:10]C)(F)(F)F.CC[SiH:20](CC)CC>>[B-]([O+:10](C)[SiH-:20](CC)(CC)CC)(F)(F)F 10=20,
CC1CC[C:20]2(C1(C[C:11](=[C:10]2C)[O-:12])C(=O)OC)[OH:21]>>CC1CC[C:20]2=[C:10]([C:11](=[O:12])CC12C(=O)OC)C.[OH-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(=O)C(C(CCCC)O[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)OC4=CC=CC=C4.CCOC(=O)N[N-:10]C(=O)OCC>>[H:20][N:10](C(=O)OCC)NC(=O)OCC.CCCCC(C(C(=O)[O-:21])OC1=CC=CC=C1)O[P+](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4 10=20;20,21=21
CC1(CC(=O)C(C(=O)C1)[C:20](C)([C:21]#N)[O-:10])C.CC[N+](CC)(CC)[K]>>C[C:20](=[O:10])C1C(=O)CC(CC1=O)(C)C.[C-:21]#N.CC[N+](CC)(CC)[K] 10=20;20,21=21
[H:20][O:21]C1C(C(C(C(O1)CO)O)O)O.[C:11](=[O:10])(O)[O-:12].[Na+]>>[H:20][O:10][C:11](=[O:12])O.C(C1C(C(C(C(O1)[O-:21])O)O)O)O.[Na+] 10,11=10,20;20,21=21;12=11
[H:20][N+:21]1=C(NCCC1)C(C2[CH:10]=[C:11](C=C(C2=O)C3=C(NC4=C3C=CC=C4)C)[O-:12])C(=O)C5=CC=C(C=C5)OC.CCN(CC)CC.CCO>>[H:20][CH:10]1C(C(=O)C(=C[C:11]1=[O:12])C2=C(NC3=C2C=CC=C3)C)C(C4=[N:21]CCCN4)C(=O)C5=CC=C(C=C5)OC.CCN(CC)CC.CCO 10,11=10,20;12=11;20,21=21
CO[C:20](=[O:21])OCCC[O-:10]>>CO[C:20]1(OCCC[O:10]1)[O-:21] 10=20;20,21=21
C1=CC=C(C=C1)O[C:20](=[O:10])[Cl+:21][Al-](Cl)(Cl)Cl>>C1=CC=C(C=C1)O[C:20]#[O+:10].[Al-](Cl)(Cl)(Cl)[Cl:21] 10=20;20,21=21
CCCCC[C:12]1=[C:13](C=C[C:10](=[CH:11]1)C[CH2:20][O:21]S(=O)(=O)C2=CC=C(C=C2)C)[O:14]C.C(=O)O>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CCCCC[C:12]1=[CH:11][C:10]2(C[CH2:20]2)C=C[C:13]1=[O+:14]C.C(=O)O 10,11=10,20;20,21=21;12,13=11,12;14=13
[H:20][NH+:21](CC(=O)OC)C(C1=C(C=CC=C1)C)O.CC[N:10](CC)CC.[Cl-]>>[H:20][N+:10](CC)(CC)CC.CC1=C(C=CC=C1)C([NH:21]CC(=O)OC)O.[Cl-] 10=20;20,21=21
[H:20][OH2+:21].CC(CC1=CC=NC=C1)(CC2=CC=NC=C2)[O-:10]>>[H:20][O:10]C(C)(CC1=CC=NC=C1)CC2=CC=NC=C2.[OH2:21] 10=20;20,21=21
